US08729095B2
To a methanol solution (10 ml) of 7-chloro-1-[1-({3,5′-difluoro-2′-[3-(tetrahydro-2H-pyran-2-yloxy)propoxy]biphenyl-4-yl}carbonyl)piperidin-4-yl]-3,3-dimethyl-3,4-dihydro-1,5-naphthyridin-2(1H)-one (300 mg) was added at room temperature p-toluenesulfonic acid monohydrate (8.7 mg), followed by stirring for 4 hours. After the reaction solution was concentrated under reduced pressure, a saturated aqueous sodium hydrogen carbonate solution and dichloromethane were added, and the solution was separated. The organic layer was washed with saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography to afford 7-chloro-1-(1-{[3,5′-difluoro-2′-(3-hydroxypropoxy)biphenyl-4-yl]carbonyl}piperidin-4-yl)-3,3-dimethyl-3,4-dihydro-1,5-naphthyridin-2(1H)-one (231 mg).

reactant | 7-chloro-1-[1-({3,5′-difluoro-2′-[3-(tetrahydro-2H-pyran-2-yloxy)propoxy]biphenyl-4-yl}carbonyl)piperidin-4-yl]-3,3-dimethyl-3,4-dihydro-1,5-naphthyridin-2(1H)-one | 300 mg | ClC1=CN=C2CC(C(N(C2=C1)C1CCN(CC1)C(=O)C1=C(C=C(C=C1)C1=C(C=CC(=C1)F)OCCCOC1OCCCC1)F)=O)(C)C | C36H40ClF2N3O5
reactant | p-toluenesulfonic acid monohydrate | 8.7 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 10 ml | CO | CH4O
product | 7-chloro-1-(1-{[3,5′-difluoro-2′-(3-hydroxypropoxy)biphenyl-4-yl]carbonyl}piperidin-4-yl)-3,3-dimethyl-3,4-dihydro-1,5-naphthyridin-2(1H)-one | 231 mg | ClC1=CN=C2CC(C(N(C2=C1)C1CCN(CC1)C(=O)C1=C(C=C(C=C1)C1=C(C=CC(=C1)F)OCCCO)F)=O)(C)C | C31H32ClF2N3O4
